US08114868B2
(R)-6-ethyl-3-((S)-1-(4-(1-isopropyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)propyl)-6-phenyl-1,3-oxazinan-2-one
The title compound was prepared from (R)-3-((S)-1-(4-bromophenyl)propyl)-6-ethyl-6-phenyl-1,3-oxazinan-2-one following procedures analogous to those described in Example 32 Method 2 Steps 3 and 4 using 5-bromo-1-isopropylpyridin-2(1H)-one in Step 4. LC-MS Method 1 tR=1.75 min, m/z=459 (M+1); 1H NMR (CDCl3) 7.49, (1H, dd, J=2.34, 9.37 Hz), 7.42 (1H, d, J=2.34 Hz), 7.32-7.24 (5H, m), 7.13 (1H, d, J=8.20), 7.04 (1H, d, J=8.49), 6.66 (1H, d, J=9.37), 5.49 (1H, aq q, J=6.44, 9.37), 5.33 (1H, m), 2.96-2.91 (1H, m), 2.39-2.32 (1H, m), 2.29-2.17 (2H, m), 2.05-1.85 (m, 4H), 1.41 (6H, dd, J=1.17, 6.73), 1.01 (3H, t, J=7.32 Hz), 0.832 (3H, t, J=7.32 Hz).

reactant | (R)-3-((S)-1-(4-bromophenyl)propyl)-6-ethyl-6-phenyl-1,3-oxazinan-2-one | BrC1=CC=C(C=C1)[C@H](CC)N1C(O[C@](CC1)(C1=CC=CC=C1)CC)=O | C21H24BrNO2
reactant | 5-bromo-1-isopropylpyridin-2(1H)-one | BrC=1C=CC(N(C1)C(C)C)=O | C8H10BrNO
product | (R)-6-ethyl-3-((S)-1-(4-(1-isopropyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)propyl)-6-phenyl-1,3-oxazinan-2-one | C(C)[C@@]1(CCN(C(O1)=O)[C@@H](CC)C1=CC=C(C=C1)C1=CN(C(C=C1)=O)C(C)C)C1=CC=CC=C1 | C29H34N2O3
